US04193921
A solution of 1.0 g of (20S)-1α,3β-dihydroxy-20-methyl-pregn-5-ene-21-carboxylic acid in 50 ml. of methanol was treated with an ethereal solution containing 4 mmol of diazomethane and stored at room temperature for 30 minutes. After addition of glacial acetic acid, the mixture was concentrated in vacuo. The crystalline residue, which was uniform according to thin-layer chromatography, was recrystallised from concentrated methanolic solution to give 0.79 g of (20S)-1α,3β-dihydroxy-20-methyl-pregn-5-ene-21-carboxylic acid methyl ester in the form of colourless prisms of melting point 144°-146° C.; [α]D =-56° (c=0.5 in chloroform). Each mol of this ester contained 1 mol of methanol of crystallisation. EXAMPLE 16

reactant | (20S)-1α,3β-dihydroxy-20-methyl-pregn-5-ene-21-carboxylic acid | 1.0 g | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@H](CC(=O)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C23H36O4
reactant | methanol | CO | CH4O
reactant | diazomethane | 4 mmol | [N+](=[N-])=C | CH2N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (20S)-1α,3β-dihydroxy-20-methyl-pregn-5-ene-21-carboxylic acid methyl ester | 0.79 g | COC(=O)C[C@@H]([C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C | C24H38O4
